US08309580B2
(2) 8-[chloro(2-methyl-5-phenylfuran-3-yl)methyl]-1,4-dioxaspiro[4.5]decane
To a solution of 1,4-dioxaspiro[4.5]dec-8-yl(2-methyl-5-phenylfuran-3-yl)methanol (0.7 g) in toluene (20 mL) were added thionyl chloride (0.2 mL) and pyridine (0.2 mL), and the mixture was stirred at 0° C. for 2 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (0.7 g, 100%) as an oil.

reactant | 1,4-dioxaspiro[4.5]dec-8-yl(2-methyl-5-phenylfuran-3-yl)methanol | 0.7 g | O1CCOC12CCC(CC2)C(O)C2=C(OC(=C2)C2=CC=CC=C2)C | C20H24O4
reactant | thionyl chloride | 0.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 8-[chloro(2-methyl-5-phenylfuran-3-yl)methyl]-1,4-dioxaspiro[4.5]decane | 0.7 g, 100% | ClC(C1CCC2(OCCO2)CC1)C1=C(OC(=C1)C1=CC=CC=C1)C | C20H23ClO3
